US06946554B2
O-Methylisourea hydrogen sulfate (17.2 g, 0.1 mol) was suspended in water (100 mL) containing NaOH (20 g, 0.5 mol) and the mixture cooled to 5-10° C. The mixture was stirred vigorously as benzoyl chloride (35.15 g, 0.25 mol) was added at such a rate that the reaction temperature did not rise above 15° C. After the last addition, the mixture was stirred for 3 h and the resulting solid collected by vacuum filtration to give N,N′-dibenzoylcarbamimidoic acid, methyl ester.

reactant | O-Methylisourea hydrogen sulfate | 0.1 mol, 17.2 g | S(=O)(=O)(O)O.COC(N)=N
reactant | NaOH | 0.5 mol, 20 g | [OH-].[Na+]
reactant | benzoyl chloride | 0.25 mol, 35.15 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 100 mL | O | H2O
product | N,N′-dibenzoylcarbamimidoic acid, methyl ester | C(C1=CC=CC=C1)(=O)NC(OC)=NC(C1=CC=CC=C1)=O | C16H14N2O3
